US05438052
1-[(7-Bromo-4-chloro-2,2-diphenyl-1,3-benzodioxol-5-yl)carbonyl]-2-[2-methyl-2-(phthalimidooxy)propionyl]hydrazine 500 mg (0.77 mmol) are dissolved in 10 ml of tetrahydrofuran and treated at 0° C. with 35 mg (0.77 mmol) of methylhydrazine. After stirring at 0° C. for 2 hours and stirring at room temperature for 3 hours the mixture is concentrated in a vacuum. The residue is chromatographed on 20 g of silica gel (0.06-02 mm). The product is eluted with dichloromethane/ethanol (95:5 v/v). The eluate is concentrated and the residue is treated with ethanolic hydrochloric acid. After crystallization from ethanol/diethyl ether there are obtained 220 mg of 1-[2-(aminooxy)-2-methylpropionyl]-2-[(7-bromo-4-chloro-2,2-diphenyl-1,3-benzodioxol-5-yl)carbonyl]hydrazine hydrochloride (1:1) as white crystals of melting point 216°-218° C.

reactant | 1-[(7-Bromo-4-chloro-2,2-diphenyl-1,3-benzodioxol-5-yl)carbonyl]-2-[2-methyl-2-(phthalimidooxy)propionyl]hydrazine | 0.77 mmol, 500 mg | BrC1=CC(=C(C2=C1OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)Cl)C(=O)NNC(C(C)(ON2C(C=1C(C2=O)=CC=CC1)=O)C)=O | C32H23BrClN3O7
reactant | methylhydrazine | 0.77 mmol, 35 mg | CNN | CH6N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[2-(aminooxy)-2-methylpropionyl]-2-[(7-bromo-4-chloro-2,2-diphenyl-1,3-benzodioxol-5-yl)carbonyl]hydrazine hydrochloride | 220 mg | Cl.NOC(C(=O)NNC(=O)C1=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=C1)Br)Cl)(C)C | InChI=1S/C24H21BrClN3O5.ClH/c1-23(2,34-27)22(31)29-28-21(30)16-13-17(25)19-20(18(16)26)33-24(32-19,14-9-5-3-6-10-14)15-11-7-4-8-12-15;/h3-13H,27H2,1-2H3,(H,28,30)(H,29,31);1H
